US07691850B2
e) 4-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-6-(methyloxy)-1,5-naphthyridine-3-carbonitrile
N-[((3S,4S)-1-{2-[3-cyano-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide (0.110 g, 0.26 mmol) was dissolved in methanol (5 mL). 10% aqueous K CO was added to the original solution and it was stirred at ambient temperature for 2 hours. The solution was extracted 3× with chloroform and washed with brine. The solvent was removed under reduced pressure. (0.076 g, 89%) LCMS: m/z 328.6 (MH+).

reactant | N-[((3S,4S)-1-{2-[3-cyano-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide | 0.26 mmol, 0.110 g | C(#N)C=1C=NC2=CC=C(N=C2C1CCN1C[C@@H]([C@@H](C1)O)CNC(C(F)(F)F)=O)OC | C19H20F3N5O3
solvent | methanol | 5 mL | CO | CH4O
product | 4-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-6-(methyloxy)-1,5-naphthyridine-3-carbonitrile | NC[C@H]1CN(C[C@H]1O)CCC1=C(C=NC2=CC=C(N=C12)OC)C#N | C17H21N5O2
